US05889002
a) 3,6-Dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A suspension of 6-chloro-2,3-dihydro-3-oxo-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (10.75 g, 0.045 mol) in phosphorus oxychloride (100 ml) was cooled on an ice bath and dry pyridine (7.3 ml, 0.09 mol) was added dropwise at such a rate that the temperature did not exceed 10° C. The mixture was then heated at 95°-100° C. for 16 h, and cooled to room temperature. A yellow precipitate was removed by filtration, and the filtrate was concentrated in vacuo. To the residue was added 200 g of ice, and the resulting mixture was stirred for 1 h, and filtered. The isolated solid was dissolved in saturated aqueous sodium hydrogen carbonate (100 ml), and filtered to remove a small amount of insoluble material. After treatment with decolorising charcoal the filtrate was adjusted to pH 2 with 4M hydrochloric acid and the precipitate that formed was filtered, washed with water and dried to yield 5.55 g (48%) of the title compound; mp >240° C. decomp.

reactant | 6-chloro-2,3-dihydro-3-oxo-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 0.045 mol, 10.75 g | ClC1=CC=2NC(NS(C2S1)(=O)=O)=O | C5H3ClN2O3S2
reactant | pyridine | 0.09 mol, 7.3 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3,6-Dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 5.55 g, 48% | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
